US09238639B2
C) Methyl 4-((3-fluoro-5-methoxyphenyl)sulfanyl)-3-oxobutanoate
A mixture of methyl 4-chloroacetoacetate (1.871 mL), K2OC3 (2.210 g), 3-fluoro-5-methoxybenzenethiol (2.3 g) and DMF (30 mL) was stirred at room temperature for 1 h. The mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (2.87 g).

reactant | methyl 4-chloroacetoacetate | 1.871 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | 3-fluoro-5-methoxybenzenethiol | 2.3 g | FC=1C=C(C=C(C1)OC)S | C7H7FOS
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 4-((3-fluoro-5-methoxyphenyl)sulfanyl)-3-oxobutanoate | 2.87 g | FC=1C=C(C=C(C1)OC)SCC(CC(=O)OC)=O | C12H13FO4S
